US08124617B2
3-(2-fluorobenzyloxy)-5-hydroxybenzaldehyde
To a clean, dry 1L flask were added 3,5-dihydroxy benzaldehyde (10 g, 70.9 mmole, 1 eq) and anhydrous DMF (70.9 mL). The mixture was cooled to −70° C. in dry ice/acetone bath while stirring under nitrogen gas. A solution of 1 M tert-butoxide in tert-butanol (70.9 mL) was slowly added drop-wise over 30 min. to the solution while the mixture was allowed to warm to −30° C. The mixture was stirred for ten minutes, then 2-fluorobenzylbromide (13.7 g, 70.9 mmole, 1 eq) was added over 10 min at −30° C. The mixture was stirred at −10° C. for one hour prior to warming to room temperature. The mixture was quenched with 200 mL of saturated ammonium chloride solution. This is an exothermic reaction and the mixture warmed to 45° C. The mixture was filtered by suction onto a 150 mL coarse fritted buchner funnel. The filtrate was added to the material on the funnel. The solid is dried and is a tan to off-white solid (13.0 g, 74.4% yield) of a 1:1 mixture of desired mono-adduct (217a) to undesired bis-adduct (217b). Recrystallization of this material from 1-butanol yields clean product (217a) in the filtrate. Alternatively, flash chromatography can be used to obtain pure product. A white solid (5.2 g, 30% overall yield), was obtained of the desired product (217a). 1H NMR (400 MHz, CDCl3) δ ppm 10.04 (s, 1H), 9.87 (s, 1H), 7.56 (dt, 1H, J=2, 8 Hz), 7.41 (m, 1H), 7.25 (dq, 2H, J=2,8 Hz), 7.04 (dd, 1H, J=1.1, 2.4 Hz), 6.92 (dd, 1H, J=1.1, 2.4 Hz), 6.72 (t, 1H, J=2.3 Hz), 5.17 (s, 2H); Calc'd for C14H11FO3(M+H+)=247; Found 247.

reactant | 3,5-dihydroxy benzaldehyde | 70.9 mmole, 10 g, 1 eq | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | DMF | 70.9 mL | CN(C)C=O | C3H7NO
reactant | tert-butoxide | 1 M | CC(C)([O-])C
reactant | 2-fluorobenzylbromide | 70.9 mmole, 13.7 g, 1 eq | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | tert-butanol | 70.9 mL | C(C)(C)(C)O | C4H10O
product | 3-(2-fluorobenzyloxy)-5-hydroxybenzaldehyde | 13.0 g, 74.4% yield | FC1=C(COC=2C=C(C=O)C=C(C2)O)C=CC=C1 | C14H11FO3
